US04753934
4-Amino-β-(4'-chloro-phenyl)-3,5-dichloro-cinnamic acid morpholide
This compound was prepared from 4-amino-3,4',5-trichlorobenzophenone, diethylphosphonoacetic acid morpholide and potassium tert.butoxide in dimethylformamide analogous to Example 4.

reactant | 4-amino-3,4',5-trichlorobenzophenone | NC1=C(C=C(C(=O)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C13H8Cl3NO
reactant | diethylphosphonoacetic acid morpholide | C(C)OP(=O)(OCC)CC(=O)N1CCOCC1 | C10H20NO5P
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Amino-β-(4'-chloro-phenyl)-3,5-dichloro-cinnamic acid morpholide | NC1=C(C=C(C(=CC(=O)N2CCOCC2)C2=CC=C(C=C2)Cl)C=C1Cl)Cl | C19H17Cl3N2O2
